US08071584B2
5-Bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxamide
TBTU (5.68 g, 17.68 mmol) and triethylamine (1.79 g, 17.68 mmol) were added to a solution of 5-bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxylic acid (3.28 g, 8.84 mmol) in dichloromethane (100 mL). After the mixture was stirred for 0.5 h at 20° C., NH3/MeOH was added into the solution, and stirring continued for 2 h. The mixture was washed with water and extracted with EtOAc. The organic phase was dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (petroleum:ethyl acetate=10:1 to 5:1 to 2:1), giving 1.1 g (33.6%) of the title compound.

reactant | TBTU | 17.68 mmol, 5.68 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 17.68 mmol, 1.79 g | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxylic acid | 8.84 mmol, 3.28 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)CC1CS(CC1)(=O)=O | C14H14BrNO4S
reactant | NH3 MeOH | N.CO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-Bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxamide | 1.1 g, 33.6% | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)CC1CS(CC1)(=O)=O | C14H15BrN2O3S
